rxngraphormer/midgen/collections/MT_library.csv
MT_class,mechanistic pathway,
intramolecular_lactonization,"[(3,5), (1,2), ([2,3],3), (4,1.1), ([1.1,1],1), (3,[3,2]), ([2,4],4), ([5,3],3), ]",
Mannich,"[(1, 2), ([2, 6], 7), (6, 1.1), ([1.1, 1], 1), (1, [1, 2]), ([2, 6], 6), ([4, 3], 2), ([2, 1], 1), (6, 3.1), ([3.1, 3], [3, 4])]",
sulfide_oxidation_by_peroxide,"[(1,2), ([2,3],3), (3,2.1), ([2.1,2],[2,1]), ]",
imine_reduction,"[(2,4), ([3,3.1],1), ([1,2],2),]",
Staudinger,"[(4, 1), ([1, 2], 2), (3, 4), ([1, 2], [2, 3]), ([3, 4], [4, 1]), (5, 4), ([4, 1], 1), (1, 5.1), ([5.1, 5], 5), (5, [5, 4]), ([4, 1], 1), (1,5.1), ([5.1,5],5)]",
Arbuzov,"[(2, 1), ([1, 4], 4), (4, 5), ([5, 3], [3, 2])]",
Boc_deprotection,"[(8,9), ([3,6],[6,7]), ([7,8],8), (1,8.1), ([8.1,8],8), (8,[8,7]), ([7,1],1), ([2.1,2],[2,3])]",
aldol_addition,"[(4, 1.1), ([1.1, 1], [1,'xl1']), (['xl1','xl2'],'xl2'), ('xl2', ['xl2','xl1']),  (['xl1',1], 2), ([2, 3], 3), (3, 4.1), ([4.1, 4], 4)]",
nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(1, 2), ([2, 3], 3), (3, [3, 2]), ([2, 4], 4)]",
Wittig,"[(5, 2.1), ([2.1, 2], 2), (2, 1), ([1, 3], 4), ([1, 3], [3, 4]), ([4, 2], [2, 1])]",
acetal_formation_from_enol_ether,"[('xl1', ['xl1',2]), ([2,3],4), (1,2), ([2,'xl1'],'xl1'), ([1.1,1],1), ]",
Swern_oxidation,"[([9, 10], 6), ([6, 7], 7), (7, [7, 6]), ([6, 8], 8), (8, 9), ([9, 10], [10, 6]), ([6, 4], 4), ([4, 3], 3), (2, 9), ([9, 8], 8), (8, 2.1), ([2.1, 2], 2), (12, 11.1), ([11.1, 11], 11), (3,12.1), ([12.1,12],12), (11, 1.1), ([1.1, 1], [1, 2]), ([2, 9], 9)]",
carboxylic_acid_derivative_hydrolysis_or_formation,"[(3,5), (1, 2), ([2, 3], 3), (4,1.1), ([1.1,1],1), (3, [3, 2]), ([2, 4], 4), ([3.1,3],3)]",
SNAr(para),"[(1, 2), ([2, 'xl1'], ['xl1','xl2']), (['xl2','xl3'],['xl3','xl4']), (['xl4','xl5'],'xl5'), ('xl5',['xl5','xl4']), (['xl4','xl3'],['xl3', 'xl2']), (['xl2','xl1'],['xl1', 2]), ([2, 5], 5)]",
Strecker_synthesis,"[(1, 2), ([2, 5], 6), (5, 1.1), ([1.1, 1], 1), (1, [1, 2]), ([2, 5], 5), (3, 2), ([2, 1], 1)]",
phenol_chlorination,"[(7, 5), ([5, 6], 6), (6, [6, 5]), ([5, 1], 1), (1, 2), ([2, 3], 3), (3, [3, 2]), ([2, 7], 7)]",
SN1,"[([2, 3], 3), (1, 2)]",
amide_reduction,"[([5, 5.1], 2), ([2, 4], 5), (3, [3, 2]), ([2, 4], 4), ([6, 6.1], 2), ([2, 3], 3)]",
alkynyl_SNAr,"[(7, 2.1), ([2.1, 2], 2), (2, 3), ([3, 4], 4), (4, [4, 3]), ([3, 6], 6)]",
reductive_amination,"[(1, 2), ([2, 3], 4), (3, 1.1), ([1.1, 1], 1), (1, [1, 2]), ([2, 3], 3), ([5, 5.1], 2), ([2, 1], 1)]",
SN2_alcohol(thiol),"[(4,1.1), ([1.1,1],1), (1,2), ([2,3],3), ]",
primary_amide_dehydration,"[(1, [1, 2]), ([2, 3], 4), ([4, 5], 5), (5, [5, 4]), ([4, 6], 1.1), ([1.1, 1], 1), ([4, 7], 1.1), ([1.1, 1], [1, 2]), ([2, 3], [3, 4])]",
Markovnikov_addition,"[([2, 3], 4), (1, 2), ([1.1,1],1)]",
SNAr_alcohol(thiol),"# removed [(6,1.1), ([1.1,1],1), (1, 2), ([2, 3], 3), (3, [3, 2]), ([2, 5], 5)]",
Ing_Manske,"[(6, 3), ([3, 2], 2), (2, [2, 3]), ([3, 1], 1), (1, 6.1), ([6.1, 6], 6), (7, 4), ([4, 5], 5), (1, 7.1), ([7.1, 7], 7), (5, [5, 4]), ([4, 1], 1)]",
methyl_ester_synthesis,"[(4, [4, 3]), ([3, 2], 1.1), ([1.1, 1], 1), (1, 2), ([2, 3], 3)]",
double_SN2,"[(2,1), ([1,4],4), (4,2.1), ([2.1,2],2), (2,3), ([3,5],5), (5,2.1), ([2.1,2],2),]",
Fischer_indole_synthesis,"[(8, 2), ([2, 7], 9), (7, 8.1), ([8.1, 8], 8), (8, [8, 2]), ([2, 7], 7), ([1.1, 1], [1, 2]), ([2, 8], 8), ([4, 5], 1), ([1, 2], [2, 8]), ([8, 3], [3, 4]), ([4, 3], 5.1), ([5.1, 5], [5, 4]), (3, 2), ([2, 8], 8), ([1.1, 1], [1, 2]), ([2, 8], 3.1), ([3.1, 3], 3)]",
alcohol_attack_to_carbonyl_or_sulfonyl,"[(6,4.1), ([4.1,4],4), (4, 2), ([2, 3], 3), (3, [3, 2]), ([2, 5], 5)]",
SNAr,"# removed [(1, 2), ([2, 3], 3), (3, [3, 2]), ([2, 4], 4)]",
aldol_condensation,"[(4, 1.1), ([1.1, 1], [1,'xl1']), (['xl1','xl2'], 'xl2'), ('xl2', ['xl2','xl1']),(['xl1',1], 2), ([2, 3], 3), (3, 4.1), ([4.1, 4], 4), (4, 1.1), ([1.1, 1], [1, 'xl1']),  (['xl1','xl2'], 'xl2'), ('xl2', ['xl2','xl1']),(['xl1',1], [1,2]), ([2, 3], 3)]",
amine_alkylation,"[(2, 1), ([1, 4], 4), (4, 2.1), ([2.1, 2], 2), (2, 3), ([3, 5], 5)]",
imine_formation,"[(1, 2), ([2, 3], 4), (3, 1.1), ([1.1, 1], 1), (1, [1, 2]), ([2, 3], 3), ([1.1,1],1)]",
aromatic_ring_nitration,"[(3, [3, 2]), ([2, 7], 8), (1, [1, 2]), ([2, 7], 1.1), ([1.1, 1], 1), ([5, 4], 2), ([2, 3], 3), (7, 4.1), ([4.1, 4], [4, 5])]",
nitrile_reduction,"[([3, 3.1], 1), ([1, 2], 4), ([3, 3.1], 1), ([1, 2], 3), ([4, 2], 5.1), ([5.1, 5], 5), ([3, 2], 6.1), ([6.1, 6], 6)]",
ester_reduction,"[([4, 4.1], 1), ([1, 2], 2), (2, [2, 1]), ([1, 3], 3), ([6, 6.1], 1), ([1, 2], 2), (2,5)]",
alcohol_dehydration,"[(3, 4), ([2, 3], 3), (3, 1.1), ([1.1, 1], [1, 2])]",
Knorr_pyrazole_synthesis,"[(2, 3), ([3, 6], 8), (6, 2.1), ([2.1, 2], 2), (2, [2, 3]), ([3, 6], 6), (1, 5), ([5, 7], 9),  (7, 1.1), ([1.1, 1], 1), (1, [1, 5]), ([5, 7], 7), ([4.1, 4], [4, 5]), ([5, 1], 1)]",
amine_oxidation,"[(2, 1), ([1, 5], [5, 6]), ([6, 7], 1.1), ([1.1, 1], 1)]",
